US05278316
Methyl 7-[(2-phenylethyl)amino]heptanoate
To a mixture of 2-penylethylamine (1.09 g, 9 mmol) and triethylamine (1.37 g, 13.5 mmol) in toluene (50 mL) was added methyl 7-bromoheptanoate (2.0 g, 9 mmol) and refluxed overnight. The reaction mixture was filtered and concentrated. Flash column chromatography over silica gel using 100% ethyl acetate yielded a yellow oil (0.62 g, 20%) NMR (250 MHz, CDCl3), 1.12-1.40 (4H, m), 1.40-1.72 (4H, m), 2.29 (2H, t), 2.63 (2H, t), 2.75-2.96 (4H, m), 2.96-3.1 (1H, br s), 3.66 (3H, s), 7.00-7.3 (5H, m).

reactant | 2-penylethylamine | 9 mmol, 1.09 g | C1(=CC=CC=C1)CCN | C8H11N
reactant | triethylamine | 13.5 mmol, 1.37 g | C(C)N(CC)CC | C6H15N
reactant | methyl 7-bromoheptanoate | 9 mmol, 2.0 g | BrCCCCCCC(=O)OC | C8H15BrO2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 7-[(2-phenylethyl)amino]heptanoate | 0.62 g, 20% | C1(=CC=CC=C1)CCNCCCCCCC(=O)OC | C16H25NO2
